### PR TITLE
[Merged by Bors] - chore(RingTheory/OreLocalization/Basic): Split file and to-additivise

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by faenuccio** [comment]
If this is really a split, should be `chore` rather than `feat`?

File: Mathlib/RingTheory/OreLocalization/Basic.lean [hunk 1]
```diff
@@ -48,6 +42,7 @@ namespace OreLocalization
 variable {R : Type*} [Monoid R] (S : Submonoid R) [OreSet S] (X) [MulAction R X]
 
 /-- The setoid on `R × S` used for the Ore localization. -/
+@[to_additive AddOreLocalization.oreEqv]
```
Comment (erdOne) [inline Mathlib/RingTheory/OreLocalization/Basic.lean:45]:
```suggestion
@[to_additive AddOreLocalization.oreEqv "The setoid on `R × S` used for the Ore localization."]
```

File: Mathlib/RingTheory/OreLocalization/Basic.lean [hunk 2]
```diff
@@ -355,91 +386,100 @@ protected theorem mul_smul (x y : R[S⁻¹]) (z : X[S⁻¹]) : (x * y) • z = x
...
     rw [← oreDiv_one_smul, ← OreLocalization.one_def, one_smul]
   mul_smul r r' := OreLocalization.ind fun x s ↦ by
     rw [← oreDiv_one_smul, ← oreDiv_one_smul, ← oreDiv_one_smul, ← mul_div_one, mul_smul]
 
+@[to_additive]
 instance : IsScalarTower R R[S⁻¹] X[S⁻¹] where
   smul_assoc a b c := by rw [← oreDiv_one_smul, ← oreDiv_one_smul, smul_smul, smul_eq_mul]
 
 /-- The fraction `s /ₒ 1` as a unit in `R[S⁻¹]`, where `s : S`. -/
+@[to_additive "The difference `s -ₒ 1` as a an additive unit."]
```
Comment (erdOne) [inline Mathlib/RingTheory/OreLocalization/Basic.lean:482]:
```suggestion
@[to_additive "The difference `s -ₒ 0` as a an additive unit."]
```

File: Mathlib/RingTheory/OreLocalization/Basic.lean [hunk 3]
```diff
@@ -74,6 +69,8 @@ def oreEqv : Setoid (X × S) where
 end OreLocalization
 
 /-- The ore localization of a monoid and a submonoid fulfilling the ore condition. -/
+@[to_additive AddOreLocalization "The ore localization of an additive monoid and a submonoid
+fulfilling the ore condition."]
```
Comment (faenuccio) [inline Mathlib/RingTheory/OreLocalization/Basic.lean:73]:
```suggestion
fulfilling the Ore condition."]
```

File: Mathlib/RingTheory/OreLocalization/Basic.lean [hunk 4]
```diff
@@ -96,40 +93,48 @@ variable {R S}
 variable {X} [MulAction R X]
 
 /-- The division in the ore localization `X[S⁻¹]`, as a fraction of an element of `X` and `S`. -/
+@[to_additive "The subtraction in the ore localization,
```
Comment (faenuccio) [inline Mathlib/RingTheory/OreLocalization/Basic.lean:96]:
```suggestion
@[to_additive "The subtraction in the Ore localization,
```

File: Mathlib/RingTheory/OreLocalization/Basic.lean [hunk 5]
```diff
@@ -96,40 +93,48 @@ variable {R S}
...
-/-- A fraction is equal to its expansion by a factor from s. -/
+/-- A fraction is equal to its expansion by a factor from `S`. -/
+@[to_additive "A difference is equal to its expansion by a factor from `S`."]
 protected theorem expand' (r : X) (s s' : S) : r /ₒ s = s' • r /ₒ (s' * s) :=
   OreLocalization.expand r s s' (by norm_cast; apply SetLike.coe_mem)
 #align ore_localization.expand' OreLocalization.expand'
 
 /-- Fractions which differ by a factor of the numerator can be proven equal if
 those factors expand to equal elements of `R`. -/
+@[to_additive "Differences which differ by a factor of the minuend can be proven equal if
```
Comment (faenuccio) [inline Mathlib/RingTheory/OreLocalization/Basic.lean:136]: Is "factor" appropriate in the additive setting?

File: Mathlib/RingTheory/OreLocalization/Basic.lean [hunk 6]
```diff
@@ -471,6 +515,8 @@ variable (hf : ∀ s : S, f s = fS s)
 
 /-- The universal lift from a morphism `R →* T`, which maps elements of `S` to units of `T`,
 to a morphism `R[S⁻¹] →* T`. -/
+@[to_additive "The universal lift from a morphism `R →+ T`, which maps elements of `S` to
+  additive-units of `T`, to a morphism `AddOreLocalization R S →* T`."]
```
Comment (faenuccio) [inline Mathlib/RingTheory/OreLocalization/Basic.lean:519]:
```suggestion
  additive-units of `T`, to a morphism `AddOreLocalization R S →+ T`."]
```

File: Mathlib/RingTheory/OreLocalization/Basic.lean (hunk 5 above)
Comment (erdOne) [reply Mathlib/RingTheory/OreLocalization/Basic.lean:136]: Maybe not, but I don't have a better term for it. Do you have any suggestions?

File: Mathlib/RingTheory/OreLocalization/Basic.lean [hunk 7]
```diff
@@ -522,46 +571,23 @@ section CommMonoid
...
-    rw [mul_one, mul_one] at h₂
-    subst h₂
-    exact ⟨u, h₁.symm⟩
-#align ore_localization.localization_map OreLocalization.localizationMap
-
-/-- If `R` is commutative, Ore localization and monoid localization are isomorphic. -/
-protected noncomputable def equivMonoidLocalization : Localization S ≃* R[S⁻¹] :=
-  Localization.mulEquivOfQuotient (OreLocalization.localizationMap R S)
-#align ore_localization.equiv_monoid_localization OreLocalization.equivMonoidLocalization
+-- The comparison with `Localization` is removed as we(@erdOne) plan to replace that.
```
Comment (faenuccio) [inline Mathlib/RingTheory/OreLocalization/Basic.lean:588]: But are you replacing it somewhere else in this PR?

File: Mathlib/RingTheory/OreLocalization/Basic.lean [hunk 8]
```diff
@@ -74,6 +69,8 @@ def oreEqv : Setoid (X × S) where
 end OreLocalization
 
 /-- The ore localization of a monoid and a submonoid fulfilling the ore condition. -/
```
Comment (erdOne) [inline Mathlib/RingTheory/OreLocalization/Basic.lean:71]:
```suggestion
/-- The Ore localization of a monoid and a submonoid fulfilling the ore condition. -/
```

File: Mathlib/RingTheory/OreLocalization/Basic.lean [hunk 9]
```diff
@@ -96,40 +93,48 @@ variable {R S}
 variable {X} [MulAction R X]
 
 /-- The division in the ore localization `X[S⁻¹]`, as a fraction of an element of `X` and `S`. -/
```
Comment (erdOne) [inline Mathlib/RingTheory/OreLocalization/Basic.lean:95]:
```suggestion
/-- The division in the Ore localization `X[S⁻¹]`, as a fraction of an element of `X` and `S`. -/
```

File: Mathlib/RingTheory/OreLocalization/Basic.lean (hunk 5 above)
Comment (faenuccio) [reply Mathlib/RingTheory/OreLocalization/Basic.lean:136]: "which differ by a common summand"? or "which are translated by a common summand"?

File: Mathlib/RingTheory/OreLocalization/Basic.lean (hunk 7 above)
Comment (erdOne) [reply Mathlib/RingTheory/OreLocalization/Basic.lean:588]: No but this will become rfl in the next PR.

File: Mathlib/RingTheory/OreLocalization/Basic.lean [hunk 10]
```diff
@@ -243,6 +254,7 @@ private def smul'' (r : R) (s : S) : X[S⁻¹] → X[S⁻¹] :=
     rw [mul_assoc (s₄' : R), h₃, ← mul_assoc]
 
 /-- The multiplication on the Ore localization of monoids. -/
+@[to_additive]
```
Comment (erdOne) [inline Mathlib/RingTheory/OreLocalization/Basic.lean:257]:
```suggestion
/-- The scalar multiplication on the Ore localization of monoids. -/
@[to_additive "the vector addition on the Ore localization of additive monoids."]
```

File: Mathlib/RingTheory/OreLocalization/Basic.lean [hunk 11]
```diff
@@ -95,41 +92,49 @@ attribute [local instance] oreEqv
...
 
+@[to_additive]
 theorem oreDiv_eq_iff {r₁ r₂ : X} {s₁ s₂ : S} :
     r₁ /ₒ s₁ = r₂ /ₒ s₂ ↔ ∃ (u : S) (v : R), u • r₂ = v • r₁ ∧ u * s₂ = v * s₁ :=
   Quotient.eq''
 #align ore_localization.ore_div_eq_iff OreLocalization.oreDiv_eq_iff
 
 /-- A fraction `r /ₒ s` is equal to its expansion by an arbitrary factor `t` if `t * s ∈ S`. -/
+@[to_additive "A difference `r -ₒ s` is equal to its expansion by an
+arbitrary factor `t` if `t + s ∈ S`."]
```
Comment (erdOne) [inline Mathlib/RingTheory/OreLocalization/Basic.lean:121]:
```suggestion
arbitrary translation `t` if `t + s ∈ S`."]
```

File: Mathlib/RingTheory/OreLocalization/Basic.lean (hunk 7 above)
Comment (faenuccio) [reply Mathlib/RingTheory/OreLocalization/Basic.lean:588]: But then I'd keep it here now and remove it in the next PR, no? Or am I missing something? Are you suggesting that we temporarily "deprive" mathlib of this lemma?

File: Mathlib/RingTheory/OreLocalization/Basic.lean [hunk 12]
```diff
@@ -95,41 +92,49 @@ attribute [local instance] oreEqv
...
 protected theorem expand (r : X) (s : S) (t : R) (hst : t * (s : R) ∈ S) :
     r /ₒ s = t • r /ₒ ⟨t * s, hst⟩ := by
   apply Quotient.sound
   exact ⟨s, s * t, by rw [mul_smul, Submonoid.smul_def], by rw [← mul_assoc]⟩
 #align ore_localization.expand OreLocalization.expand
 
-/-- A fraction is equal to its expansion by a factor from s. -/
+/-- A fraction is equal to its expansion by a factor from `S`. -/
+@[to_additive "A difference is equal to its expansion by a factor from `S`."]
```
Comment (erdOne) [inline Mathlib/RingTheory/OreLocalization/Basic.lean:129]:
```suggestion
@[to_additive "A difference is equal to its expansion by a summand from `S`."]
```

File: Mathlib/RingTheory/OreLocalization/Basic.lean (hunk 8 above)
Comment (faenuccio) [reply Mathlib/RingTheory/OreLocalization/Basic.lean]: A second Ore (in "ore" condition) that needs to be capitalized.

File: Mathlib/RingTheory/OreLocalization/Basic.lean [hunk 13]
```diff
@@ -95,41 +92,49 @@ attribute [local instance] oreEqv
...
 protected theorem expand' (r : X) (s s' : S) : r /ₒ s = s' • r /ₒ (s' * s) :=
   OreLocalization.expand r s s' (by norm_cast; apply SetLike.coe_mem)
 #align ore_localization.expand' OreLocalization.expand'
 
 /-- Fractions which differ by a factor of the numerator can be proven equal if
 those factors expand to equal elements of `R`. -/
+@[to_additive "Differences which differ by a factor of the minuend can be proven equal if
+those factors expand to equal elements of `R`."]
```
Comment (erdOne) [inline Mathlib/RingTheory/OreLocalization/Basic.lean:137]:
```suggestion
@[to_additive "Differences whose minuends differ by a common summand can be proven equal if
those summands expand to equal elements of `R`."]
```

File: Mathlib/RingTheory/OreLocalization/OreSet.lean [hunk 14]
```diff
@@ -21,6 +21,23 @@ This defines left Ore sets on arbitrary monoids.
 
 -/
 
+namespace AddOreLocalization
+
+/-- A submonoid `S` of an additive monoid `R` is (left) Ore if common factors on the right can be
```
Comment (erdOne) [inline Mathlib/RingTheory/OreLocalization/OreSet.lean:26]:
```suggestion
/-- A submonoid `S` of an additive monoid `R` is (left) Ore if common summands on the right can be
```

File: Mathlib/RingTheory/OreLocalization/OreSet.lean [hunk 15]
```diff
@@ -21,6 +21,23 @@ This defines left Ore sets on arbitrary monoids.
...
+turned into common factors on the left, and if each pair of `r : R` and `s : S` admits an Ore
```
Comment (erdOne) [inline Mathlib/RingTheory/OreLocalization/OreSet.lean:27]:
```suggestion
turned into common summands on the left, and if each pair of `r : R` and `s : S` admits an Ore
```

File: Mathlib/RingTheory/OreLocalization/OreSet.lean [hunk 16]
```diff
@@ -21,6 +21,23 @@ This defines left Ore sets on arbitrary monoids.
...
+minuend `v : R` and an Ore subtrahend `u : S` such that `u + r = v + s`. -/
+class OreSet {R : Type*} [AddMonoid R] (S : AddSubmonoid R) where
+  /-- Common factors on the right can be turned into common factors on the left, a weak form of
```
Comment (erdOne) [inline Mathlib/RingTheory/OreLocalization/OreSet.lean:30]:
```suggestion
  /-- Common summands on the right can be turned into common summands on the left, a weak form of
```

File: Mathlib/RingTheory/OreLocalization/OreSet.lean [hunk 17]
```diff
@@ -21,6 +21,23 @@ This defines left Ore sets on arbitrary monoids.
 
 -/
 
+namespace AddOreLocalization
+
+/-- A submonoid `S` of an additive monoid `R` is (left) Ore if common summands on the right can be
```
Comment (faenuccio) [inline Mathlib/RingTheory/OreLocalization/OreSet.lean:26]: Following the changes in `Basic` I'd change this "common factors" (and related things) to the translations.

File: Mathlib/RingTheory/OreLocalization/OreSet.lean [hunk 18]
```diff
@@ -41,36 +59,48 @@ cancellability. -/
...
 
 /-- The Ore denominator of a fraction. -/
+@[to_additive AddOreLocalization.oreDenom "The Ore subtrahend of a difference."]
 def oreDenom (r : R) (s : S) : S :=
   OreSet.oreDenom r s
 #align ore_localization.ore_denom OreLocalization.oreDenom
 
 /-- The Ore condition of a fraction, expressed in terms of `oreNum` and `oreDenom`. -/
+@[to_additive AddOreLocalization.ore_eq
+  "The Ore condition of a d, expressed in terms of `oreMin` and `oreSubtra`."]
```
Comment (faenuccio) [inline Mathlib/RingTheory/OreLocalization/OreSet.lean:88]:
```suggestion
  "The Ore condition of a difference, expressed in terms of `oreMin` and `oreSubtra`."]
```

File: Mathlib/RingTheory/OreLocalization/OreSet.lean (hunk 17 above)
Comment (erdOne) [reply Mathlib/RingTheory/OreLocalization/OreSet.lean:26]: Sure. I just pushed [a commit](https://github.com/leanprover-community/mathlib4/pull/13559/commits/932f692aa7ff4d12fc2020b0daef5a6039ab63fb) fixing them. Please double check that the wording is good.

File: Mathlib/RingTheory/OreLocalization/Ring.lean [hunk 19]
```diff
@@ -0,0 +1,267 @@
...
+import Mathlib.Algebra.GroupWithZero.NonZeroDivisors
+import Mathlib.Algebra.Module.Defs
+import Mathlib.Algebra.Field.Defs
+import Mathlib.RingTheory.OreLocalization.Basic
+
+#align_import ring_theory.ore_localization.basic from "leanprover-community/mathlib"@"861a26926586cd46ff80264d121cdb6fa0e35cc1"
+
+/-!
+
+# Module and Ring instances of Ore Localizations
```
Comment (faenuccio) [inline Mathlib/RingTheory/OreLocalization/Ring.lean:16]: You could perhaps add here a sentence saying that alghough here everything is multiplicative, there exists an additive version in `bla/bla/file.lean`.

File: Mathlib/RingTheory/OreLocalization/Basic.lean (hunk 7 above)
Comment (erdOne) [reply Mathlib/RingTheory/OreLocalization/Basic.lean]: I would hope that I won't have to touch this file again so I moved these into `GroupTheory/MonoidLocalization.lean` for now.

File: Mathlib/RingTheory/OreLocalization/Basic.lean [hunk 20]
```diff
@@ -73,7 +68,9 @@ def oreEqv : Setoid (X × S) where
 
 end OreLocalization
 
-/-- The ore localization of a monoid and a submonoid fulfilling the ore condition. -/
+/-- The Ore localization of a monoid and a submonoid fulfilling the ore condition. -/
```
Comment (faenuccio) [inline Mathlib/RingTheory/OreLocalization/Basic.lean:71]:
```suggestion
/-- The Ore localization of a monoid and a submonoid fulfilling the Ore condition. -/
```

File: Mathlib/RingTheory/OreLocalization/Basic.lean [hunk 21]
```diff
@@ -73,7 +68,9 @@ def oreEqv : Setoid (X × S) where
 
 end OreLocalization
 
-/-- The ore localization of a monoid and a submonoid fulfilling the ore condition. -/
+/-- The Ore localization of a monoid and a submonoid fulfilling the Ore condition. -/
+@[to_additive AddOreLocalization "The ore localization of an additive monoid and a submonoid
```
Comment (erdOne) [inline Mathlib/RingTheory/OreLocalization/Basic.lean:72]:
```suggestion
@[to_additive AddOreLocalization "The Ore localization of an additive monoid and a submonoid
```

**Comment by faenuccio** [comment]
In general, it LGTM: thanks! I am going to test the `to_additive` attribute a bit, and then I will send it to maintainers.

File: Mathlib/RingTheory/OreLocalization/Basic.lean [hunk 22]
```diff
@@ -95,41 +92,49 @@ attribute [local instance] oreEqv
...
 #align ore_localization.ind OreLocalization.ind
 
+@[to_additive]
 theorem oreDiv_eq_iff {r₁ r₂ : X} {s₁ s₂ : S} :
     r₁ /ₒ s₁ = r₂ /ₒ s₂ ↔ ∃ (u : S) (v : R), u • r₂ = v • r₁ ∧ u * s₂ = v * s₁ :=
   Quotient.eq''
 #align ore_localization.ore_div_eq_iff OreLocalization.oreDiv_eq_iff
 
 /-- A fraction `r /ₒ s` is equal to its expansion by an arbitrary factor `t` if `t * s ∈ S`. -/
+@[to_additive "A difference `r -ₒ s` is equal to its expansion by an
```
Comment (faenuccio) [inline Mathlib/RingTheory/OreLocalization/Basic.lean:120]: Is this notation really defined? I have tried to use it with `open AddOreLocalization` and `open scoped AddOreLocalization`  but it did not work.

File: Mathlib/RingTheory/OreLocalization/OreSet.lean [hunk 23]
```diff
@@ -21,6 +21,23 @@ This defines left Ore sets on arbitrary monoids.
 
 -/
 
+namespace AddOreLocalization
+
+/-- A submonoid `S` of an additive monoid `R` is (left) Ore if common summands on the right can be
+turned into common summands on the left, and if each pair of `r : R` and `s : S` admits an Ore
+minuend `v : R` and an Ore subtrahend `u : S` such that `u + r = v + s`. -/
+class OreSet {R : Type*} [AddMonoid R] (S : AddSubmonoid R) where
```
Comment (faenuccio) [inline Mathlib/RingTheory/OreLocalization/OreSet.lean:29]: Right now, the way to declare that something is and additive Ore set is by `open`ing  `AddOreLocalization` and then declaring `OreSet`; in analogy with `AddMonoid` and `AddSubmonoid`, wouldn't it be more coherent to have a (possibly localized, in the sense of the namespace `AddOreLocalization`) declaration `AddOreSet`?

File: Mathlib/RingTheory/OreLocalization/Basic.lean (hunk 22 above)
Comment (erdOne) [reply Mathlib/RingTheory/OreLocalization/Basic.lean:123]: Thanks! fixed.

File: Mathlib/RingTheory/OreLocalization/OreSet.lean (hunk 23 above)
Comment (erdOne) [reply Mathlib/RingTheory/OreLocalization/OreSet.lean:29]: The current `OreSet` is under the namespace `OreLocalization`. Do you mean `AddOreLocalization.AddOreSet`?

Comment (faenuccio) [reply Mathlib/RingTheory/OreLocalization/OreSet.lean:29]: It seems to me that right now there are two declarations `oreSet`, one in `OreLocalization` and one in `AddOreLocalization`. I am suggesting to rename the second to become `AddOreSet`. As to whether we should keep the namespace `AddOreLocalization`, I'm happy with whatever you suggest. Or did I misunderstand your question?

Comment (erdOne) [reply Mathlib/RingTheory/OreLocalization/OreSet.lean]: Renamed to `AddOreLocalization.AddOreSet`.

**Comment by erdOne** [comment]
This is because only `u` is an element of `B`.
```
example {A : Type*} [AddMonoid A] {B : AddSubmonoid A} [AddOreLocalization.AddOreSet B]
  {Y : Type} [AddAction A Y] {r₁ r₂ : Y} {s₁ s₂ : B} :
    r₁ -ₒ s₁ = r₂ -ₒ s₂ ↔ ∃ (u : B) (v : A), u +ᵥ r₂ = v +ᵥ r₁ ∧ u + s₂ = v + s₁ :=
  AddOreLocalization.oreSub_eq_iff
```

File: Mathlib/RingTheory/OreLocalization/Basic.lean [hunk 24]
```diff
@@ -266,81 +281,100 @@ protected def smul : R[S⁻¹] → X[S⁻¹] → X[S⁻¹] :=
...
 Ore witnesses and conditions bundled in a sigma type. -/
+@[to_additive "Another characterization lemma for the addition on the Ore localizaion delivering
+  Ore witnesses and conditions bundled in a sigma type."]
 def oreDivMulChar' (r₁ r₂ : R) (s₁ s₂ : S) :
     Σ'r' : R, Σ's' : S, s' * r₁ = r' * s₂ ∧ r₁ /ₒ s₁ * (r₂ /ₒ s₂) = r' * r₂ /ₒ (s' * s₁) :=
   ⟨oreNum r₁ s₂, oreDenom r₁ s₂, ore_eq r₁ s₂, oreDiv_mul_oreDiv⟩
 #align ore_localization.ore_div_mul_char' OreLocalization.oreDivMulChar'
 
+@[to_additive]
 instance instOneOreLocalization : One R[S⁻¹] :=
```
Comment (faenuccio) [inline Mathlib/RingTheory/OreLocalization/Basic.lean:338]: This instance' name becomes `instZeroOreLocalization` rather than `instZeroAddOreLocalization`: can the second be forced?

Comment (erdOne) [reply Mathlib/RingTheory/OreLocalization/Basic.lean:338]: Goot catch. Fixed. I think this example is particularly confusing for `to_additive` because `OreLocalization` is mixed into a longer camel-case name. This shouldn't happen that often.

Comment (faenuccio) [reply Mathlib/RingTheory/OreLocalization/Basic.lean:338]: Well, unfortunately it happens all over the file (see `oreDiv` or `oreDivSmulChar`, etc...). I do not think it is reasonable to fix all them by hand, or at least it will certainly be painful. That's why I was asking for a reference in the library to see how this kind of things are handled. I am happy to ask on Zulip if you prefer. And I am sorry for making this review so long, it should have been an "easy chore splitting..." ;-)

Comment (erdOne) [reply Mathlib/RingTheory/OreLocalization/Basic.lean:338]: I think the generated `AddOreLocalization.oreSubAddChar'` is the correct name?

Comment (faenuccio) [reply Mathlib/RingTheory/OreLocalization/Basic.lean:338]: Why not `AddOreLocalization.addoreSubAddChar'`?

Comment (faenuccio) [reply Mathlib/RingTheory/OreLocalization/Basic.lean:338]: If the instance got changed from `OreLocalization` to `AddOreLocalization` this should be consistent. Or perhaps not. Or we could remove all these `ore` and possibly make something `private`?

File: Mathlib/RingTheory/OreLocalization/Basic.lean [hunk 25]
```diff
@@ -355,91 +389,100 @@ protected theorem mul_smul (x y : R[S⁻¹]) (z : X[S⁻¹]) : (x * y) • z = x
...
 
+@[to_additive]
 instance instMonoidOreLocalization : Monoid R[S⁻¹] :=
   { OreLocalization.instMulOreLocalization,
     OreLocalization.instOneOreLocalization with
     one_mul := OreLocalization.one_mul
     mul_one := OreLocalization.mul_one
     mul_assoc := OreLocalization.mul_assoc }
 
+@[to_additive]
```
Comment (faenuccio) [inline Mathlib/RingTheory/OreLocalization/Basic.lean:405]:
```suggestion
@[to_additive  AddOreLocalization.instAddActionAddOreLocalization]
```

File: Mathlib/RingTheory/OreLocalization/Basic.lean [hunk 26]
```diff
@@ -355,91 +389,100 @@ protected theorem mul_smul (x y : R[S⁻¹]) (z : X[S⁻¹]) : (x * y) • z = x
   symm; apply oreDiv_smul_char
   rw [Submonoid.coe_mul, Submonoid.coe_mul, ← mul_assoc, ← hc, mul_assoc _ ra, ← ha, mul_assoc]
 
+@[to_additive]
 protected theorem mul_assoc (x y z : R[S⁻¹]) : x * y * z = x * (y * z) :=
   OreLocalization.mul_smul x y z
 #align ore_localization.mul_assoc OreLocalization.mul_assoc
 
+@[to_additive]
```
Comment (faenuccio) [inline Mathlib/RingTheory/OreLocalization/Basic.lean:397]:
```suggestion
@[to_additive AddOreLocalization.instAddMonoidAddOreLocalization]
```

File: Mathlib/RingTheory/OreLocalization/Basic.lean [hunk 27]
```diff
@@ -355,91 +389,100 @@ protected theorem mul_smul (x y : R[S⁻¹]) (z : X[S⁻¹]) : (x * y) • z = x
...
   simp [oreDiv_smul_char p r s 1 p 1 (by simp)]
 
-@[simp]
+@[to_additive (attr := simp)]
 theorem mul_div_one {p r : R} {s : S} : (p /ₒ s) * (r /ₒ 1) = (p * r) /ₒ s := by
   --TODO use coercion r ↦ r /ₒ 1
   simp [oreDiv_mul_char p r s 1 p 1 (by simp)]
 #align ore_localization.div_one_mul OreLocalization.mul_div_one
 
+@[to_additive]
```
Comment (faenuccio) [inline Mathlib/RingTheory/OreLocalization/Basic.lean:455]:
```suggestion
@[to_additive AddOreLocalization.instVAddAddOreLocalization]
```

Comment (faenuccio) [reply Mathlib/RingTheory/OreLocalization/Basic.lean:455]: And why the prime?

File: Mathlib/RingTheory/OreLocalization/Basic.lean [hunk 28]
```diff
@@ -355,91 +389,100 @@ protected theorem mul_smul (x y : R[S⁻¹]) (z : X[S⁻¹]) : (x * y) • z = x
...
 theorem smul_oreDiv (r : R) (x : X) (s : S) : r • (x /ₒ s) = oreNum r s • x /ₒ (oreDenom r s) :=
   rfl
 
-@[simp]
+@[to_additive (attr := simp)]
 theorem oreDiv_one_smul (r : R) (x : X[S⁻¹]) : (r /ₒ (1 : S)) • x = r • x := by
   induction' x using OreLocalization.ind with r s
   rw [smul_oreDiv, oreDiv_smul_oreDiv, mul_one]
 
+@[to_additive]
```
Comment (faenuccio) [inline Mathlib/RingTheory/OreLocalization/Basic.lean:472]:
```suggestion
@[to_additive instAddActionAddOreLocalization']
```

File: Mathlib/RingTheory/OreLocalization/OreSet.lean [hunk 29]
```diff
@@ -41,36 +59,48 @@ cancellability. -/
...
 #align ore_localization.ore_right_cancel OreLocalization.ore_right_cancel
 
 /-- The Ore numerator of a fraction. -/
+@[to_additive AddOreLocalization.oreMin "The Ore minuend of a difference."]
 def oreNum (r : R) (s : S) : R :=
   OreSet.oreNum r s
 #align ore_localization.ore_num OreLocalization.oreNum
 
 /-- The Ore denominator of a fraction. -/
+@[to_additive AddOreLocalization.oreDenom "The Ore subtrahend of a difference."]
```
Comment (faenuccio) [inline Mathlib/RingTheory/OreLocalization/OreSet.lean:81]: Why isn't it called something like `.oreSubtra`?

File: Mathlib/RingTheory/OreLocalization/OreSet.lean [hunk 30]
```diff
@@ -41,36 +59,48 @@ cancellability. -/
...
 def oreDenom (r : R) (s : S) : S :=
   OreSet.oreDenom r s
 #align ore_localization.ore_denom OreLocalization.oreDenom
 
 /-- The Ore condition of a fraction, expressed in terms of `oreNum` and `oreDenom`. -/
+@[to_additive AddOreLocalization.ore_eq
```
Comment (faenuccio) [inline Mathlib/RingTheory/OreLocalization/OreSet.lean:87]:
```suggestion
@[to_additive AddOreLocalization.add_ore_eq
```

File: Mathlib/RingTheory/OreLocalization/OreSet.lean [hunk 31]
```diff
@@ -41,36 +59,48 @@ cancellability. -/
...
 both witnesses and the condition for a given fraction. -/
+@[to_additive AddOreLocalization.oreCondition
+  "The Ore condition bundled in a sigma type. This is useful in situations where we want to obtain
+both witnesses and the condition for a given difference."]
 def oreCondition (r : R) (s : S) : Σ'r' : R, Σ's' : S, s' * r = r' * s :=
   ⟨oreNum r s, oreDenom r s, ore_eq r s⟩
 #align ore_localization.ore_condition OreLocalization.oreCondition
 
 /-- The trivial submonoid is an Ore set. -/
+@[to_additive AddOreLocalization.oreSetBot]
```
Comment (faenuccio) [inline Mathlib/RingTheory/OreLocalization/OreSet.lean:103]:
```suggestion
@[to_additive AddOreLocalization.addOreSetBot]
```

File: Mathlib/RingTheory/OreLocalization/OreSet.lean [hunk 32]
```diff
@@ -41,36 +59,48 @@ cancellability. -/
...
 /-- The Ore condition of a fraction, expressed in terms of `oreNum` and `oreDenom`. -/
+@[to_additive AddOreLocalization.ore_eq
+  "The Ore condition of a difference, expressed in terms of `oreMin` and `oreSubtra`."]
 theorem ore_eq (r : R) (s : S) : oreDenom r s * r = oreNum r s * s :=
   OreSet.ore_eq r s
 #align ore_localization.ore_eq OreLocalization.ore_eq
 
 /-- The Ore condition bundled in a sigma type. This is useful in situations where we want to obtain
 both witnesses and the condition for a given fraction. -/
+@[to_additive AddOreLocalization.oreCondition
```
Comment (faenuccio) [inline Mathlib/RingTheory/OreLocalization/OreSet.lean:95]:
```suggestion
@[to_additive AddOreLocalization.addOreCondition
```

File: Mathlib/RingTheory/OreLocalization/OreSet.lean [hunk 33]
```diff
@@ -89,6 +119,7 @@ instance oreSetBot : OreSet (⊥ : Submonoid R) where
 #align ore_localization.ore_set_bot OreLocalization.oreSetBot
 
 /-- Every submonoid of a commutative monoid is an Ore set. -/
+@[to_additive AddOreLocalization.oreSetComm]
```
Comment (faenuccio) [inline Mathlib/RingTheory/OreLocalization/OreSet.lean:122]:
```suggestion
@[to_additive AddOreLocalization.addOreSetComm]
```

**Review by faenuccio — COMMENTED** [review]
OK, I tried another (final...) round of renaming suggestions for the additive version. The rationale has been, as you suggested, that if the name is too long we let it go. But I wonder if this is optimal.

File: Mathlib/RingTheory/OreLocalization/Basic.lean [hunk 34]
```diff
@@ -73,7 +68,9 @@ def oreEqv : Setoid (X × S) where
 
 end OreLocalization
 
-/-- The ore localization of a monoid and a submonoid fulfilling the ore condition. -/
+/-- The Ore localization of a monoid and a submonoid fulfilling the Ore condition. -/
+@[to_additive AddOreLocalization "The Ore localization of an additive monoid and a submonoid
+fulfilling the Ore condition."]
 def OreLocalization {R : Type*} [Monoid R] (S : Submonoid R) [OreSet S]
```
[the remark this answers is not in the document]
Comment (erdOne) [reply Mathlib/RingTheory/OreLocalization/Basic.lean:74]: This is a type and should be capitalized.

[the remark this answers is not in the document]
Comment (faenuccio) [reply Mathlib/RingTheory/OreLocalization/Basic.lean:74]: Oh right, sorry. Changed.

File: Mathlib/RingTheory/OreLocalization/Basic.lean (hunk 25 above)
Comment (erdOne) [reply Mathlib/RingTheory/OreLocalization/Basic.lean:405]: I think the solution to these is maybe to not name the instance and the to-additive version and let lean handle the names, as the generated names seem good enough and we will almost never refer to this.

File: Mathlib/RingTheory/OreLocalization/OreSet.lean (hunk 29 above)
Comment (erdOne) [reply Mathlib/RingTheory/OreLocalization/OreSet.lean:81]: Oops fixed.

File: Mathlib/RingTheory/OreLocalization/Basic.lean (hunk 25 above)
Comment (faenuccio) [reply Mathlib/RingTheory/OreLocalization/Basic.lean:405]: Yes, in the end I agree. Please commit whatever you prefer and leave the rest. I will then be happy to call the maintainers for the merge, just ping me.

**Comment by erdOne** [comment]
I removed the names of instances and incorporated the other suggestions. 
Thanks a lot for the thorough review!

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
